US07943651B2
Intermediate 19: (2R)-2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane
Triethylamine (8.2 mL, 58.8 mmol) was added to a solution of (2R)-4-[5-fluoro-2-(methyloxy)phenyl]-4-methyl-2-(trifluoromethyl)-1,2-pentanediol (3.4 g, 10.9 mmol) in DCM (34 mL). This solution was then cooled to 0° C. and neat methanesulphonyl chloride (1.1 mL, 15.3 mmol) was added over 5 min keeping the temperature at 0-5° C. The resulting suspension was stirred at 0-5° C. for 15 min before warming to 20° C. The reaction mixture was then left to stir overnight. Further neat methanesulphonyl chloride (0.84 μL, 0.1 eq) was added at room temperature and the mixture stirred for 15 min. The reaction mixture was then washed successively with 1M HCl (3×12 mL), 9% aqueous sodium bicarbonate (12 mL) and water (12 mL) before evaporating to dryness to afford the title compound, 3.08 g.

reactant | Triethylamine | 58.8 mmol, 8.2 mL | C(C)N(CC)CC | C6H15N
reactant | (2R)-4-[5-fluoro-2-(methyloxy)phenyl]-4-methyl-2-(trifluoromethyl)-1,2-pentanediol | 10.9 mmol, 3.4 g | FC=1C=CC(=C(C1)C(C[C@](CO)(O)C(F)(F)F)(C)C)OC | C14H18F4O3
reactant | methanesulphonyl chloride | 15.3 mmol, 1.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonyl chloride | 0.84 μL, 0.1 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 34 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane | FC=1C=CC(=C(C1)C(C[C@]1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
